Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
mussels
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
s/p US guided drainage of intraabdominal collection

 
History of Present Illness:
HPI: ___ with adrenal insufficiency, hypothyroidism, hx of
cecectomy/appendectomy who presents ___ s/p lap cholecystectomy
with 2-day history of worsening RLQ abdominal pain. Patient was
discharged same day following routine lap cholecystectomy and
initially had bloating and diarrhea but otherwise was recovering
well at home and not needing narcotic analgesia beyond POD3.
Appetite has been diminished but tolerating food. Two days ago,
she developed acute onset RLQ pain, worsened with movement and
deep inspiration, alleviated by lying still, with some radiation
more superiorly but mainly localized to the RLQ. No associated
fever, chills, nausea, vomiting, dysuria, masses/bulges, melena,
or hematochezia. Since the pain continued to progress, she
presented to urgent care today where abdominal US demonstrated
"fluid in the abdomen" (report unavailable and unable to be
accessed) and thus referred to the ED for further evaluation.

On evaluation, patient recounts history as above. Pain is ___
currently as she is resting but ___ at its worst. She endorses
flatus and her last BM was this morning. She denies any
gynecologic issues. 

 
Past Medical History:
PMH:
-adrenal insufficiency
-hypothyroidism
-liver hemangioma
-pancreatic IPMNs (being followed)

PSH:
-removal of pituitary tumor
-cecetomy/appendectomy ___ years ago for cecal diverticulitis

 
Social History:
___
Family History:
Father - heart disease
Mother - breast cancer

 
Physical Exam:
At admission:
PHYSICAL EXAM:
VS - 97.9, 77, 164/53, 15, 100% RA
Gen: NAD, non-toxic. Alert, oriented, conversant.
HEENT: No scleral icterus; moist mucous membranes
CV: RRR
Pulm: breathing comfortably on room air
Abd: Soft, non-distended. Focal tenderness in RLQ with slight
guarding; no rebound. Surgical port sites dressed with
Steri-strips with some ecchymosis around umbilical sight but
absent erythema, induration, drainage. No masses or hernias
appreciated.
Ext: warm, no edema

At the discharge:
VS: temp 98.0, BP 110/64, HR 79, RR 18, O2 Sats 99 RA,
GEN: A&Ox3, NAD, resting comfortably  
HEENT: NCAT, EOMI, sclera anicteric  
CV: RRR  
PULM: no respiratory distress  
ABD: soft, NT, ND, no rebound or guarding, incisions healing 
well
EXT: warm, well-perfused, no edema  
 
Pertinent Results:
___ 08:27PM BLOOD WBC-9.0 RBC-3.42* Hgb-10.5* Hct-31.3* 
MCV-92 MCH-30.7 MCHC-33.5 RDW-13.5 RDWSD-44.2 Plt ___
___ 08:27PM BLOOD Glucose-95 UreaN-15 Creat-0.9 Na-142 
K-4.5 Cl-104 HCO3-24 AnGap-14
___ 08:27PM BLOOD ALT-28 AST-32 AlkPhos-111* TotBili-1.2

___ 06:33AM BLOOD WBC-7.2 RBC-2.97* Hgb-9.1* Hct-27.0* 
MCV-91 MCH-30.6 MCHC-33.7 RDW-13.3 RDWSD-44.2 Plt ___
___ 06:33AM BLOOD Glucose-142* UreaN-9 Creat-0.8 Na-144 
K-4.6 Cl-109* HCO3-26 AnGap-9*
___ 10:49AM BLOOD ALT-19 AST-22 AlkPhos-85 TotBili-1.0
___ 06:33AM BLOOD Calcium-8.4 Phos-2.5* Mg-2.4

___ ___ drainage
IMPRESSION:  
Successful ultrasound-guided aspiration of 2 cc of thick blood 
product, sent for requested analysis.  The aspirated collection 
in the right lower abdomen appeared to represent organized 
hematoma, and no additional fluid could be aspirated.  No 
immediate post-procedural complications. 

 
Brief Hospital Course:
The patient presented to ED at ___ with abdominal pain and 
with findings of fluid collection detected on abdominal US at 
___. The patient was admitted to our service. On HD 2 patient 
underwent ___ drainage of intra abdominal fluid collection (see 
detailed ___ report), sanquinous collection was removed and it 
was determined that there is no need to leave drain in. Patient 
tolerated the procedure well. Endocrinology service was 
consulted to help with management of patient adrenal 
insufficiency. Patient was receiving hydrocortisone 50 mg IV 
twice daily. At the time of discharge patient was instructed to 
take 10 mg Po Prednisone day after d/c and then following day 
return to her normal daily dose (3 mg Prednisone daily)
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a PCA. Pain was 
very well controlled. The patient was then transitioned to 
crushed oral pain medication once tolerating a stage 3 diet.  
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on regular diet post intervention and 
patient tolerated it well. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  
 

 
Medications on Admission:
-Aspirin 81 mg PO every other day
-Fosamax 70 mg PO weekly
-Vitamin D3 2,000u PO daily
-Levothyroxine 88 mcg PO daily
-Oxycodone PRN
-Polyethylene glycol 17gm PO prn constipation
-Prednisone 1 mg PO daily
-Zolpidem 2.5mg PO qHS prn 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
Please do not exceed 3 g a day.  
2.  PredniSONE 10 mg PO ONCE Duration: 1 Dose 
Please take on ___  
3.  PredniSONE 3 mg PO DAILY 
Please start on ___  
4.  Aspirin 81 mg PO DAILY  
5.  Levothyroxine Sodium 88 mcg PO DAILY  
- resumed all home medication

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
intraabdominal fluid collection s/p US guided drainage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___. 

You were admitted with RLQ pain and complex free fluid in 
paracolic gutter and pelvis, you underwent the drainage of the 
fluid collection and now you are ready to be discharged. During 
the hospitalization - endocrinology was consulted to help with 
steroid management of your adrenal insufficiency.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

For your adrenal insufficiency - please take tomorrow ___ 
10mg of prednisone and then return to your regular dose 3mg a 
day on ___
 
Followup Instructions:
___